US08008505B2
56.1 [rac]-1-(4-{[2-(4-Chloro-phenyl)-5,6-difluoro-2H-indazol-3-yl]-cyclohexyl-methoxy}-phenoxy)-cyclopropanecarboxylic acid
In analogy to the procedure described in example 7.2, [rac]-1-(4-{[2-(4-chloro-phenyl)-5,6-difluoro-2H-indazol-3-yl]-cyclohexyl-methoxy}-phenoxy)-cyclopropanecarboxylic acid methyl ester was treated with 1 N aqueous lithium hydroxide solution in THF and MeOH to give the title compound as colorless liquid. MS: m/e=553.3 [M+H+].

reactant | [rac]-1-(4-{[2-(4-chloro-phenyl)-5,6-difluoro-2H-indazol-3-yl]-cyclohexyl-methoxy}-phenoxy)-cyclopropanecarboxylic acid methyl ester | COC(=O)C1(CC1)OC1=CC=C(C=C1)OC(C1CCCCC1)C=1N(N=C2C=C(C(=CC12)F)F)C1=CC=C(C=C1)Cl | C31H29ClF2N2O4
reactant | lithium hydroxide | 1 N | [OH-].[Li+]
solvent | THF | C1CCOC1 | C4H8O
solvent | MeOH | CO | CH4O
product | [rac]-1-(4-{[2-(4-Chloro-phenyl)-5,6-difluoro-2H-indazol-3-yl]-cyclohexyl-methoxy}-phenoxy)-cyclopropanecarboxylic acid | ClC1=CC=C(C=C1)N1N=C2C=C(C(=CC2=C1C(OC1=CC=C(OC2(CC2)C(=O)O)C=C1)C1CCCCC1)F)F | C30H27ClF2N2O4
